US05322848
(R,S)-1-(3-hydroxypiperidin-1-yl)methyl-2-(3,4-dichlorophenyl) acetyl-1,2,3,4-tetrahydroisoquinoline hydrochloride--diastereoisomer A
Prepared as Example n° 1 from 4.83 g (19.6 mmoles) of 1-(3-hydroxypiperidin-1-yl)methyl-1,2,3,4-tetrahydroisoquinoline--diast. mix.--, 5.15 g (23.1 mmoles) of 3,4-dichlorophenylacetyl chloride and 3.2 g (23.1 mmoles) of anhydrous potassium carbonate.

reactant | 1-(3-hydroxypiperidin-1-yl)methyl-1,2,3,4-tetrahydroisoquinoline | 19.6 mmoles, 4.83 g | OC1CN(CCC1)CC1NCCC2=CC=CC=C12 | C15H22N2O
reactant | 3,4-dichlorophenylacetyl chloride | 23.1 mmoles | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
reactant | potassium carbonate | 23.1 mmoles, 3.2 g | C([O-])([O-])=O.[K+].[K+]
product | (R,S)-1-(3-hydroxypiperidin-1-yl)methyl-2-(3,4-dichlorophenyl) acetyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.O[C@@H]1CN(CCC1)C[C@@]1(NCCC2=CC=CC=C12)C(CC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C23H26Cl2N2O2.ClH/c24-20-8-7-16(12-21(20)25)13-22(29)23(15-27-11-3-5-18(28)14-27)19-6-2-1-4-17(19)9-10-26-23;/h1-2,4,6-8,12,18,26,28H,3,5,9-11,13-15H2;1H/t18-,23-;/m0./s1
